US08426447B2
To a solution of 7-bromo-2-fluoro-3-(2,2,2-trifluoroethoxy)-9H-xanthen-9-one (2.00 g, 5.11 mmol) in THF (25 mL) at 0° C. was added methylmagnesium bromide 3.0 M in diethyl ether (3.41 mL, 10.23 mmol) slowly. After addition, the mixture was stirred at room temperature for overnight. Then, the mixture was cooled to 0° C. and saturated ammonium chloride (50 mL) was added slowly. The mixture was then stirred at RT for 15 min. Then, the organic layer was collected and the aqueous layer was extracted with EtOAc (1×50 mL). The combined organic extracts were dried over MgSO4, concentrated, and dried in vacuo to give 7-bromo-2-fluoro-9-methylene-3-(2,2,2-trifluoroethoxy)-9H-xanthene as a brown solid. MS (ESI, positive ion) m/z: 388.9, 390.9 (M+1).

reactant | 7-bromo-2-fluoro-3-(2,2,2-trifluoroethoxy)-9H-xanthen-9-one | 5.11 mmol, 2.00 g | BrC1=CC=C2OC=3C=C(C(=CC3C(C2=C1)=O)F)OCC(F)(F)F | C15H7BrF4O3
reactant | methylmagnesium bromide | 3.0 M | C[Mg]Br
reactant | diethyl ether | 10.23 mmol, 3.41 mL | C(C)OCC | C4H10O
reactant | ammonium chloride | 50 mL | [Cl-].[NH4+]
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 7-bromo-2-fluoro-9-methylene-3-(2,2,2-trifluoroethoxy)-9H-xanthene | BrC1=CC=C2OC=3C=C(C(=CC3C(C2=C1)=C)F)OCC(F)(F)F | C16H9BrF4O2
